US06630493B1
a) Ethyl 2-(2-naphthalenamido)thiazole-4-carboxylate
4.7 g (24.9 mmol) of 2-naphthoyl chloride, dissolved in 50 ml of anhydrous tetrahydrofuran, were added dropwise at 0° C. to 4 g (23.3 mmol) of ethyl 2-aminothiazole-4-carboxylate and 6.4 ml (46.5 mmol) of triethylamine in 150 ml of anhydrous tetrahydrofuran. The entire mixture was then stirred for 16 h. The reaction solution was then poured into plenty of water and extracted with ethyl acetate. The organic phase was then washed with aqueous sodium hydrogencarbonate solution, dried and concentrated in vacuo. The residue was purified by chromatography (eluent: methylene chloride), 5.6 g (82%) of the product being obtained.

reactant | 2-naphthoyl chloride | 24.9 mmol, 4.7 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | ethyl 2-aminothiazole-4-carboxylate | 23.3 mmol | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | triethylamine | 46.5 mmol, 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Ethyl 2-(2-naphthalenamido)thiazole-4-carboxylate | C1=C(C=CC2=CC=CC=C12)C(=O)NC=1SC=C(N1)C(=O)OCC | C17H14N2O3S
